US04929741
A solution of 10.7 g (39 mmol) of 3-methyl-2-butenyl 4-hydroxy-4-(4-methoxyphenyl)-2-butynoate in 150 ml of methylene chloride was added dropwise at 0° to a suspension of 101.7 g (1.17 mol) of manganese dioxide in 200 ml of methylene chloride. The reaction mixture was stirred at 0° for 1 hour, filtered over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 700 g of silica gel (elution agent methylene chloride/ether 4:1). There was obtained 3-methyl-2-butenyl 3-(4-methoxybenzoyl)propiolate as a yellow oil.

reactant | 3-methyl-2-butenyl 4-hydroxy-4-(4-methoxyphenyl)-2-butynoate | 39 mmol, 10.7 g | OC(C#CC(=O)OCC=C(C)C)C1=CC=C(C=C1)OC | C16H18O4
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.17 mol, 101.7 g | [O-2].[O-2].[Mn+4]
product | 3-methyl-2-butenyl 3-(4-methoxybenzoyl)propiolate | COC1=CC=C(C(=O)C#CC(=O)OCC=C(C)C)C=C1 | C16H16O4
